US09428456B2
N-(4-Fluoro-3-formyl-phenyl)-5-methyl-nicotinamide L-6
The title compound is prepared according to the reaction sequence described above using 5-methylnicotinoyl chloride and (5-amino-2-fluorophenyl)methanol followed by oxidation of the crude alcohol: LC-MS A: tR=0.60 min; [M+H]+=258.88.

reactant | 5-methylnicotinoyl chloride | CC=1C=NC=C(C(=O)Cl)C1 | C7H6ClNO
reactant | (5-amino-2-fluorophenyl)methanol | NC=1C=CC(=C(C1)CO)F | C7H8FNO
product | N-(4-Fluoro-3-formyl-phenyl)-5-methyl-nicotinamide | FC1=C(C=C(C=C1)NC(C1=CN=CC(=C1)C)=O)C=O | C14H11FN2O2
